US07915263B2
(2) Synthesis of 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarbonitrile
To a solution of 6.42 g of 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxamide and 2.39 ml of dimethylsulfoxide in 90 ml of methylene chloride was added a solution of 2.06 ml of oxalyl chloride in 10 ml of methylene chloride at −78° C., followed by stirring the reaction mixture at −78° C. for 15 minutes. To the reaction mixture was added 7.05 ml of triethylamine at −78° C., followed by stirring the reaction mixture at −78° C. for 30 minutes and then stirring at room temperature for 1.5 hours. The reaction mixture was washed with water and brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The obtained residue was purified by a silica gel column chromatography (eluent: hexane to hexane/ethyl acetate=4/1) to give the title compound as a pale yellow oil.

reactant | 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxamide | 6.42 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)C(=O)N | C23H31NO2Si
reactant | dimethylsulfoxide | 2.39 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 2.06 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 7.05 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarbonitrile | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)C#N | C23H29NOSi
